US09085540B2
To a mixture of tert-butyl (3R)-3-(methoxymethyl)piperazine-1-carboxylate (206 mg), methanol (3.09 mL), and a 36% aqueous formaldehyde solution (187 mg) was added 10% palladium-supported carbon (50% wet product) (76 mg), followed by stirring at room temperature for 4 hours under a hydrogen gas atmosphere (1 atm). The reactant was filtered through celite and then the solvent was evaporated under reduced pressure to obtain tert-butyl (3R)-3-(methoxymethyl)-4-methylpiperazine-1-carboxylate (231 mg) as an oily material.

reactant | tert-butyl (3R)-3-(methoxymethyl)piperazine-1-carboxylate | 206 mg | COC[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C11H22N2O3
reactant | formaldehyde | 187 mg | C=O | CH2O
catalyst | palladium | 76 mg | [Pd] | Pd
solvent | methanol | 3.09 mL | CO | CH4O
product | tert-butyl (3R)-3-(methoxymethyl)-4-methylpiperazine-1-carboxylate | 231 mg | COC[C@H]1CN(CCN1C)C(=O)OC(C)(C)C | C12H24N2O3
